US06518423B1
6-[1-(tert-Butyldimethylsiloxy)ethyl]purine
To a solution of 0.543 g of 1-(purin-6-yl)ethanol in N,N-dimethylformamide (10 ml) were added 0.27 g of imidazole and 0.598 g of tert-butyldimethylsilyl chloride and the resulting mixture was stirred at room temperature for 15 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.793 g of the title compound as a white solid.

reactant | 1-(purin-6-yl)ethanol | 0.543 g | N1=CN=C2N=CNC2=C1C(C)O | C7H8N4O
reactant | imidazole | 0.27 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.598 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-[1-(tert-Butyldimethylsiloxy)ethyl]purine | 0.793 g | O([Si](C)(C)C(C)(C)C)C(C)C1=C2NC=NC2=NC=N1 | C13H22N4OSi
